US07968583B2
Preparation of 4-(4-methyl-piperazin-1-yl)-2-nitro-benzoic acid tert-butyl ester
A solution of 4-fluoro-2-nitro-benzoic acid tert-butyl ester (13 g, 54 mmol) and N-methyl-piperazine (17 mL) was stirred at room temperature for about 6 hours. The reaction mixture was then diluted with water (800 mL) and maintained under magnetic stirring for about 20 hours. The resulting solid was filtered, washed thoroughly with water and dried under vacuum at 40° C. The title compound was obtained as a yellow solid (16.4 g, 94% yield), and was used in the next step without any further purification.

reactant | 4-fluoro-2-nitro-benzoic acid tert-butyl ester | 54 mmol, 13 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C11H12FNO4
reactant | N-methyl-piperazine | 17 mL | CN1CCNCC1 | C5H12N2
solvent | water | 800 mL | O | H2O
product | 4-(4-methyl-piperazin-1-yl)-2-nitro-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C16H23N3O4
